### PR TITLE
[Merged by Bors] - feat(NumberTheory/NumberField/FinitePlaces): the finite places of a number field

### PR DESCRIPTION
**Pull request by fbarroero**
This file defines finite places of a number field `K` as absolute values coming from an embedding
into a completion of `K` associated to a non-zero prime ideal of `𝓞 K` with some basic APIs.

This is part of a project which aims to define heights. The next step is the product formula.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 1]
```diff
@@ -0,0 +1,242 @@
...
+/-- The norm of a maximal ideal as an element of `ℝ≥0` is `> 1`  -/
+lemma one_lt_norm : 1 < (absNorm v.asIdeal : NNReal) := by
+  norm_cast
+  by_contra! h
+  apply IsPrime.ne_top v.isPrime
+  rw [← absNorm_eq_one_iff]
+  have : 0 < absNorm v.asIdeal := by
+    rw [Nat.pos_iff_ne_zero, absNorm_ne_zero_iff]
+    have : Fintype (𝓞 K ⧸ v.asIdeal) := Ideal.fintypeQuotientOfFreeOfNeBot v.asIdeal v.ne_bot
+    exact Fintype.finite this
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:45]:
```suggestion
    exact (v.asIdeal.fintypeQuotientOfFreeOfNeBot v.ne_bot).finite
```
Dot notation allows to write this more compactly.

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 2]
```diff
@@ -0,0 +1,242 @@
...
+
+/-- The `v`-adic absolute value on `K` defined as the norm of `v` raised to negative `v`-adic
+valuation.-/
+noncomputable def vadic_abv : AbsoluteValue K ℝ where
+  toFun := fun x ↦ toNNReal (norm_ne_zero v) (v.valuation x)
+  map_mul' := fun _ _ ↦ by simp only [_root_.map_mul, NNReal.coe_mul]
+  nonneg' := fun _ ↦ NNReal.zero_le_coe
+  eq_zero' := fun _ ↦ by simp only [NNReal.coe_eq_zero, map_eq_zero]
+  add_le' := by
+    intro x y
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:58]:
```suggestion
  toFun x := toNNReal (norm_ne_zero v) (v.valuation x)
  map_mul' _ _ := by simp only [_root_.map_mul, NNReal.coe_mul]
  nonneg' _ := NNReal.zero_le_coe
  eq_zero' _ := by simp only [NNReal.coe_eq_zero, map_eq_zero]
  add_le' x y := by
```
This is notation that tends to be more readable.

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 3]
```diff
@@ -0,0 +1,242 @@
...
+    simp only
+    norm_cast
+    -- the triangular inequality is implied by the ultrametric one
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:61]:
```suggestion
    -- the triangle inequality is implied by the ultrametric one
```

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 4]
```diff
@@ -0,0 +1,242 @@
...
+    apply le_trans _ <| max_le_add_of_nonneg (zero_le ((toNNReal (norm_ne_zero v)) (v.valuation x)))
+      (zero_le ((toNNReal (norm_ne_zero v)) (v.valuation y)))
+    have h_mono := StrictMono.monotone (toNNReal_strictMono (one_lt_norm v))
+    rw [← Monotone.map_max h_mono] --max goes inside withZeroMultIntToNNReal
+    exact h_mono (Valuation.map_add v.valuation x y)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:66]:
```suggestion
    have h_mono := (toNNReal_strictMono (one_lt_norm v)).monotone
    rw [← h_mono.map_max] --max goes inside withZeroMultIntToNNReal
    exact h_mono (v.valuation.map_add x y)
```
if you want to use dot notation. (It is a matter of taste and takes some getting used to.)

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 5]
```diff
@@ -0,0 +1,242 @@
...
+    rw [Nat.pos_iff_ne_zero, absNorm_ne_zero_iff]
+    have : Fintype (𝓞 K ⧸ v.asIdeal) := Ideal.fintypeQuotientOfFreeOfNeBot v.asIdeal v.ne_bot
+    exact Fintype.finite this
+  omega
+
+private lemma norm_ne_zero : (absNorm v.asIdeal : NNReal) ≠ 0 := ne_zero_of_lt (one_lt_norm v)
+
+/-- The `v`-adic absolute value on `K` defined as the norm of `v` raised to negative `v`-adic
+valuation.-/
+noncomputable def vadic_abv : AbsoluteValue K ℝ where
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:52]:
```suggestion
noncomputable def vadicAbv : AbsoluteValue K ℝ where
```
This is a term of a non-Prop type, so should be in lower camel case as per the [naming convention](https://leanprover-community.github.io/contribute/naming.html) (point 4).

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 6]
```diff
@@ -0,0 +1,242 @@
...
+theorem vadic_abv_def {x : K} : vadic_abv v x = toNNReal (norm_ne_zero v) (v.valuation x) := rfl
+
+end absoluteValue
+
+section FinitePlace
+variable {K : Type*} [Field K] [NumberField K] (v : HeightOneSpectrum (𝓞 K))
+
+/-- The embedding of a NumberField inside its completion with respect to `v`. -/
+def embedding : K →+* adicCompletion K v :=
+    @UniformSpace.Completion.coeRingHom K _ v.adicValued.toUniformSpace _ _
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:77]:
```suggestion
  @UniformSpace.Completion.coeRingHom K _ v.adicValued.toUniformSpace _ _
```
what comes after the `:=` is indented two spaces.

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 7]
```diff
@@ -0,0 +1,242 @@
...
+    rw [valuedAdicCompletion_eq_valuation' v (x : K)]
+    constructor
+    · simpa only [ne_eq, map_eq_zero, NoZeroSMulDivisors.algebraMap_eq_zero_iff]
+    · apply ne_of_lt
+      rw [valuation_eq_intValuationDef, intValuation_lt_one_iff_dvd]
+      exact dvd_span_singleton.mpr hx1
+
+/-- The `v`-adic completion of `K` is a normed field. -/
+noncomputable instance instNormedFieldValuedAdicCompletion : NormedField (adicCompletion K v) :=
+    Valued.toNormedField (adicCompletion K v) (WithZero (Multiplicative ℤ))
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:100]:
```suggestion
  Valued.toNormedField (adicCompletion K v) (WithZero (Multiplicative ℤ))
```

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 8]
```diff
@@ -0,0 +1,242 @@
...
+
+/-- A finite place of a number field `K` is a place associated to an embedding into a completion
+with respect to a maximal ideal. -/
+def FinitePlace (K : Type*) [Field K] [NumberField K] := {w : AbsoluteValue K ℝ //
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:104]:
```suggestion
def FinitePlace (K : Type*) [Field K] [NumberField K] :=
  {w : AbsoluteValue K ℝ //
```
If the definition doesn't fit on the remainder of the line, it should start in the following line (with 2 spaces indentation).

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 9]
```diff
@@ -0,0 +1,242 @@
...
+    ∃ v : IsDedekindDomain.HeightOneSpectrum (𝓞 K), place (embedding v) = w}
+
+/-- Return the finite place defined by a maximal ideal `v`. -/
+noncomputable def FinitePlace.mk (v : HeightOneSpectrum (𝓞 K)) : FinitePlace K :=
+    ⟨place (embedding v), ⟨v, rfl⟩⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:109]:
```suggestion
  ⟨place (embedding v), ⟨v, rfl⟩⟩
```

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 10]
```diff
@@ -0,0 +1,242 @@
...
+
+/-- The norm of the image after the embedding associated to `v` is equal to the `v`-adic absolute
+value. -/
+theorem FinitePlace.norm_def (x : K) : ‖embedding v x‖ = vadic_abv v x := by
+  simp only [NormedField.toNorm, instNormedFieldValuedAdicCompletion, Valued.toNormedField,
+    instFieldAdicCompletion, Valued.norm, Valuation.RankOne.hom, MonoidWithZeroHom.coe_mk,
+    ZeroHom.coe_mk, embedding, UniformSpace.Completion.coeRingHom, RingHom.coe_mk,
+    MonoidHom.coe_mk, OneHom.coe_mk, Valued.valuedCompletion_apply, NNReal.coe_inj]
+  rfl
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:118]: The `rfl` here points to a missing API lemma (note that `NNReal.coe_inj` above is not actually used by `simp`) of the form `(WithZeroMulInt.toNNReal _ (Valued.v x) : ℝ) = (vadic_abv v) x` or similar (whose proof will be `rfl`).

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 11]
```diff
@@ -0,0 +1,242 @@
...
+
+/-- The `v`-adic norm of an integer is at most 1. -/
+theorem norm_le_one (x : 𝓞 K) : ‖embedding v x‖ ≤ 1 := by
+  rw [norm_def, vadic_abv_def, NNReal.coe_le_one, toNNReal_le_one_iff (one_lt_norm v)]
+  exact valuation_le_one v x
+
+/-- The `v`-adic norm of an integer is 1 if and only if it is not in the ideal. -/
+theorem norm_eq_one_iff_not_mem (x : 𝓞 K) : ‖(embedding v) x‖ = 1 ↔ x ∉ v.asIdeal := by
+  rw [norm_def, vadic_abv_def, NNReal.coe_eq_one, toNNReal_eq_one_iff (v.valuation (x : K))
+    (norm_ne_zero v) (Ne.symm (ne_of_lt (one_lt_norm v))), valuation_eq_intValuationDef,
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:130]:
```suggestion
    (norm_ne_zero v) (one_lt_norm v).ne', valuation_eq_intValuationDef,
```
Dot notation simplifies this.

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 12]
```diff
@@ -0,0 +1,242 @@
...
+    ← dvd_span_singleton, ← intValuation_lt_one_iff_dvd, not_lt]
+  exact Iff.symm (LE.le.ge_iff_eq (intValuation_le_one v x))
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:132]:
```suggestion
  exact (intValuation_le_one v x).ge_iff_eq.symm
```
Same here.

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 13]
```diff
@@ -0,0 +1,242 @@
...
+    instFieldAdicCompletion, Valued.norm, Valuation.RankOne.hom, MonoidWithZeroHom.coe_mk,
+    ZeroHom.coe_mk, embedding, UniformSpace.Completion.coeRingHom, RingHom.coe_mk,
+    MonoidHom.coe_mk, OneHom.coe_mk, Valued.valuedCompletion_apply, NNReal.coe_inj]
+  rfl
+
+open FinitePlace
+
+/-- The `v`-adic norm of an integer is at most 1. -/
+theorem norm_le_one (x : 𝓞 K) : ‖embedding v x‖ ≤ 1 := by
+  rw [norm_def, vadic_abv_def, NNReal.coe_le_one, toNNReal_le_one_iff (one_lt_norm v)]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:124]: The opening gambits of this and the next two proofs are quite similar. It may be a good idea to state a lemma for this and then use it in these proofs.

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 14]
```diff
@@ -0,0 +1,242 @@
...
+  exact dvd_span_singleton
+
+end FinitePlace
+
+namespace FinitePlace
+variable {K : Type*} [Field K] [NumberField K]
+
+instance : FunLike (FinitePlace K) K ℝ where
+  coe w x := w.1 x
+  coe_injective' _ _ h := Subtype.eq (AbsoluteValue.ext fun x => congr_fun h x)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:147]:
```suggestion
  coe_injective' _ _ h := Subtype.eq (AbsoluteValue.ext fun x ↦ congr_fun h x)
```
This is the preferred style in Mathlib.

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 15]
```diff
@@ -0,0 +1,242 @@
...
+
+instance : MonoidWithZeroHomClass (FinitePlace K) K ℝ where
+  map_mul w _ _ := w.1.map_mul _ _
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:150]:
```suggestion
  map_mul w := w.1.map_mul
```
like below.

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 16]
```diff
@@ -0,0 +1,242 @@
...
+  map_one w := w.1.map_one
+  map_zero w := w.1.map_zero
+
+instance : NonnegHomClass (FinitePlace K) K ℝ where
+  apply_nonneg w _ := w.1.nonneg _
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:155]:
```suggestion
  apply_nonneg w := w.1.nonneg
```

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 17]
```diff
@@ -0,0 +1,242 @@
...
+
+@[simp]
+theorem mk_max_ideal (w : FinitePlace K) : mk (maximal_ideal w) = w := Subtype.ext w.2.choose_spec
+
+@[simp]
+theorem norm_embedding_eq (w : FinitePlace K) (x : K) :
+    ‖embedding (maximal_ideal w) x‖ = w x := by
+  have h : w x = (mk (maximal_ideal w)) x := by simp only [mk_max_ideal]
+  rw [h]
+  rfl
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:171]:
```suggestion
  rw [show w x = (mk (maximal_ideal w)) x by simp only [mk_max_ideal], apply]
```
(Here `apply` is the API lemma that deals with the `rfl`.)

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 18]
```diff
@@ -0,0 +1,242 @@
...
+
+theorem eq_iff_eq (x : K) (r : ℝ) : (∀ w : FinitePlace K, w x = r) ↔
+    ∀ v : HeightOneSpectrum (𝓞 K), ‖embedding v x‖ = r := Set.forall_subtype_range_iff
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:174]:
```suggestion
    ∀ v : HeightOneSpectrum (𝓞 K), ‖embedding v x‖ = r :=
  Set.forall_subtype_range_iff
```
(See above.)

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 19]
```diff
@@ -0,0 +1,242 @@
...
+
+theorem le_iff_le (x : K) (r : ℝ) : (∀ w : FinitePlace K, w x ≤ r) ↔
+    ∀ v : HeightOneSpectrum (𝓞 K), ‖embedding v x‖ ≤ r := Set.forall_subtype_range_iff
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:177]:
```suggestion
    ∀ v : HeightOneSpectrum (𝓞 K), ‖embedding v x‖ ≤ r :=
  Set.forall_subtype_range_iff
```

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 20]
```diff
@@ -0,0 +1,242 @@
...
+theorem mk_max_ideal (w : FinitePlace K) : mk (maximal_ideal w) = w := Subtype.ext w.2.choose_spec
+
+@[simp]
+theorem norm_embedding_eq (w : FinitePlace K) (x : K) :
+    ‖embedding (maximal_ideal w) x‖ = w x := by
+  have h : w x = (mk (maximal_ideal w)) x := by simp only [mk_max_ideal]
+  rw [h]
+  rfl
+
+theorem eq_iff_eq (x : K) (r : ℝ) : (∀ w : FinitePlace K, w x = r) ↔
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:173]: This statement looks strange: under which circumstances would one consider elements whose valuations at all finite places are the same? (Unless perhaps `r = 1`  or `r = 0`, but then a specialized version would likely be more useful.)

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 21]
```diff
@@ -0,0 +1,242 @@
...
+theorem mk_eq_iff {v₁ v₂ : HeightOneSpectrum (𝓞 K)} : mk v₁ = mk v₂ ↔ v₁ = v₂ := by
+  refine ⟨?_, fun a ↦ by rw [a]⟩
+  contrapose!
+  intro h
+  rw [DFunLike.ne_iff]
+  have : ∃ x : 𝓞 K, x ∈ v₁.asIdeal ∧ x ∉ v₂.asIdeal := by
+    by_contra!
+    apply h
+    exact HeightOneSpectrum.ext_iff.mpr (IsMaximal.eq_of_le (isMaximal v₁) IsPrime.ne_top' this)
+  rcases this with ⟨x, hx1, hx2⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:191]:
```suggestion
  have ⟨x, hx1, hx2⟩ : ∃ x : 𝓞 K, x ∈ v₁.asIdeal ∧ x ∉ v₂.asIdeal := by
    by_contra! H
    exact h <| HeightOneSpectrum.ext_iff.mpr (IsMaximal.eq_of_le (isMaximal v₁) IsPrime.ne_top' H)
```
Some shortcuts.

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 22]
```diff
@@ -0,0 +1,242 @@
...
+  map_zero w := w.1.map_zero
+
+instance : NonnegHomClass (FinitePlace K) K ℝ where
+  apply_nonneg w _ := w.1.nonneg _
+
+@[simp]
+theorem apply (v : HeightOneSpectrum (𝓞 K)) (x : K) : mk v x =  ‖embedding v x‖ := rfl
+
+/-- For a finite place `w`, return a maximal ideal `v` such that `w = finite_place v` . -/
+noncomputable def maximal_ideal (w : FinitePlace K) : HeightOneSpectrum (𝓞 K) := w.2.choose
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:161]:
```suggestion
noncomputable def maximalIdeal (w : FinitePlace K) : HeightOneSpectrum (𝓞 K) := w.2.choose
```
See above. Names referring to it should then also contain `maximalIdeal` (instead of `max_ideal`).

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 23]
```diff
@@ -0,0 +1,242 @@
...
+  use x
+  simp only [apply]
+  rw [← norm_lt_one_iff_mem ] at hx1
+  rw [← norm_eq_one_iff_not_mem] at hx2
+  linarith
+
+theorem max_ideal_mk (v : HeightOneSpectrum (𝓞 K)) : maximal_ideal (mk v) = v := by
+  rw [← mk_eq_iff, mk_max_ideal]
+
+theorem mulSupport_Finite_int {x : 𝓞 K} (h_x_nezero : x ≠ 0) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:201]:
```suggestion
theorem mulSupport_finite_int {x : 𝓞 K} (h_x_nezero : x ≠ 0) :
```

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 24]
```diff
@@ -0,0 +1,242 @@
...
+    (Function.mulSupport fun w : FinitePlace K => w x).Finite := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:202]:
```suggestion
    (Function.mulSupport fun w : FinitePlace K ↦ w x).Finite := by
```

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 25]
```diff
@@ -0,0 +1,242 @@
...
+  have (w : FinitePlace K) : w x ≠ 1 ↔ w x < 1 := by
+    have := norm_le_one w.maximal_ideal x
+    rw [norm_embedding_eq] at this
+    exact Decidable.ne_iff_lt_iff_le.mpr this
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:206]:
```suggestion
    exact ne_iff_lt_iff_le.mpr this
```
We don't need `Decidable` here.

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 26]
```diff
@@ -0,0 +1,242 @@
...
+  simp_rw [Function.mulSupport, this, ← norm_embedding_eq, norm_lt_one_iff_mem,
+    ← Ideal.dvd_span_singleton]
+  have h : {v : HeightOneSpectrum (𝓞 K) | v.asIdeal ∣ span {x}}.Finite := by
+    apply Ideal.finite_factors
+    simp only [Submodule.zero_eq_bot, ne_eq, span_singleton_eq_bot, h_x_nezero, not_false_eq_true]
+  have h_inj : Set.InjOn (fun w : FinitePlace K ↦ maximal_ideal w)
+      {x_1 | x_1.maximal_ideal.asIdeal ∣ span {x}} := by
+    apply Function.Injective.injOn
+    intro w₁ w₂ h
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:215]: Maybe add the injectivity of `maximalIdeal` as a separate lemma?

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 27]
```diff
@@ -0,0 +1,242 @@
...
+    rw [← mk_max_ideal w₁, ← mk_max_ideal w₂]
+    exact congrArg mk h
+  apply Set.Finite.of_finite_image _ h_inj
+  have h_subs : ((fun w : FinitePlace K ↦ w.maximal_ideal) ''
+      {x_1 : FinitePlace K | x_1.maximal_ideal.asIdeal ∣ span {x}}) ⊆
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:220]:
```suggestion
  have h_subs : FinitePlace.maximal_ideal ''
      {w : FinitePlace K | w.maximal_ideal.asIdeal ∣ span {x}} ⊆
```
(unnecessary parens, plus see above.)

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 28]
```diff
@@ -0,0 +1,242 @@
...
+      {v : HeightOneSpectrum (𝓞 K) | v.asIdeal ∣ span {x}} := by
+    simp only [dvd_span_singleton, Set.image_subset_iff, Set.preimage_setOf_eq, subset_refl]
+  exact Set.Finite.subset h h_subs
+
+theorem mulSupport_Finite {x : K} (h_x_nezero : x ≠ 0) :
+    (Function.mulSupport fun w : FinitePlace K => w x).Finite := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:226]:
```suggestion
    (Function.mulSupport fun w : FinitePlace K ↦ w x).Finite := by
```

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 29]
```diff
@@ -0,0 +1,242 @@
...
+  rcases @IsFractionRing.div_surjective (𝓞 K) _ K _ _ _ x with ⟨a, b, hb, hfrac⟩
+  subst hfrac
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:228]:
```suggestion
  rcases IsFractionRing.div_surjective (A := 𝓞 K) x with ⟨a, b, hb, rfl⟩
```
Named implicit arguments help avoid `@`, and there is the `rfl` trick.

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 30]
```diff
@@ -0,0 +1,242 @@
...
+  simp_all only [ne_eq, div_eq_zero_iff, NoZeroSMulDivisors.algebraMap_eq_zero_iff, not_or,
+    map_div₀]
+  obtain ⟨ha, hb⟩ := h_x_nezero
+  rw [← RingOfIntegers.coe_eq_algebraMap, ← RingOfIntegers.coe_eq_algebraMap]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:232]:
```suggestion
  simp_rw [← RingOfIntegers.coe_eq_algebraMap]
```
`simp_rw` rewrites repeatedly.

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 31]
```diff
@@ -0,0 +1,242 @@
...
+  apply Set.Finite.subset (Set.Finite.union (mulSupport_Finite_int ha) (mulSupport_Finite_int hb))
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:233]:
```suggestion
  apply ((mulSupport_Finite_int ha).union (mulSupport_Finite_int hb)).subset
```
Dot notation again (a matter of taste).

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 32]
```diff
@@ -0,0 +1,242 @@
...
+  intro w
+  contrapose!
+  intro a_1
+  simp_all only [Set.mem_union, Function.mem_mulSupport, ne_eq, not_or, Decidable.not_not,
+    one_ne_zero, not_false_eq_true, div_self, not_true_eq_false]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:238]:
```suggestion
  simp only [Function.mem_mulSupport, ne_eq, Set.mem_union]
  contrapose!
  simp +contextual only [ne_eq, one_ne_zero, not_false_eq_true, div_self, implies_true]
```
The `apply` and `intro` lines can be combined (again, a matter of taste):
```lean
  refine ((mulSupport_Finite_int ha).union (mulSupport_Finite_int hb)).subset fun w ↦ ?_
```
This can be simplified a bit.

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 33]
```diff
@@ -0,0 +1,242 @@
...
+    rw [← mk_max_ideal w₁, ← mk_max_ideal w₂]
+    exact congrArg mk h
+  apply Set.Finite.of_finite_image _ h_inj
+  have h_subs : ((fun w : FinitePlace K ↦ w.maximal_ideal) ''
+      {x_1 : FinitePlace K | x_1.maximal_ideal.asIdeal ∣ span {x}}) ⊆
+      {v : HeightOneSpectrum (𝓞 K) | v.asIdeal ∣ span {x}} := by
+    simp only [dvd_span_singleton, Set.image_subset_iff, Set.preimage_setOf_eq, subset_refl]
+  exact Set.Finite.subset h h_subs
+
+theorem mulSupport_Finite {x : K} (h_x_nezero : x ≠ 0) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:225]:
```suggestion
theorem mulSupport_finite {x : K} (h_x_nezero : x ≠ 0) :
```

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean (hunk 20 above)
Comment (fbarroero) [reply Mathlib/NumberTheory/NumberField/FinitePlaces.lean:172]: You are right, these two theorems are probably useless. I just copy-pasted the APIs of `InfinitePlaces` and didn't ask myself if these would be helpful or not. I erase them.

**Comment by fbarroero** [comment]
Thank you @MichaelStollBayreuth  for the review and the suggestions!

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 34]
```diff
@@ -0,0 +1,240 @@
...
+
+/-!
+# Finite places of number fields
+This file defines finite places of a number field `K` as absolute values coming from an embedding
+into a completion of `K` associated to a non-zero prime ideal of `𝓞 K`.
+
+## Main Definitions and Results
+* `NumberField.vadicAbv`: a `v`-adic absolute value on `K`.
+* `NumberField.FinitePlace`: the type of finite places of a number field `K`.
+* `NumberField.FinitePlace.mulSupport_Finite`: the `v`-adic absolute value of a non-zero element of
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:21]:
```suggestion
* `NumberField.FinitePlace.mulSupport_finite`: the `v`-adic absolute value of a non-zero element of
```

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 35]
```diff
@@ -0,0 +1,240 @@
...
+/-- For a finite place `w`, return a maximal ideal `v` such that `w = finite_place v` . -/
+noncomputable def maximalIdeal (w : FinitePlace K) : HeightOneSpectrum (𝓞 K) := w.2.choose
+
+@[simp]
+theorem mk_maximalIdeal (w : FinitePlace K) : mk (maximalIdeal w) = w := Subtype.ext w.2.choose_spec
+
+@[simp]
+theorem norm_embedding_eq (w : FinitePlace K) (x : K) :
+    ‖embedding (maximalIdeal w) x‖ = w x := by
+  rw [show w x = (mk (maximalIdeal w)) x by simp only [mk_maximalIdeal], apply]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:179]:
```suggestion
  conv_rhs => rw [← mk_maximalIdeal w, apply]
```
`conv` and friends allows you more targeted rewrites (and more).

Comment (fbarroero) [reply Mathlib/NumberTheory/NumberField/FinitePlaces.lean]: I didn't know of this tactic! It's quite useful!

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 36]
```diff
@@ -0,0 +1,240 @@
...
+  rw [← norm_eq_one_iff_not_mem] at hx2
+  linarith
+
+theorem maximalIdeal_mk (v : HeightOneSpectrum (𝓞 K)) : maximalIdeal (mk v) = v := by
+  rw [← mk_eq_iff, mk_maximalIdeal]
+
+lemma maximalIdeal_injective : (fun w : FinitePlace K ↦ maximalIdeal w).Injective := by
+  intro w₁ w₂ h
+  rw [← mk_maximalIdeal w₁, ← mk_maximalIdeal w₂]
+  exact congrArg mk h
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:204]:
```suggestion
lemma maximalIdeal_injective : (fun w : FinitePlace K ↦ maximalIdeal w).Injective :=
  Function.HasLeftInverse.injective ⟨mk, mk_maximalIdeal⟩
```

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 37]
```diff
@@ -0,0 +1,240 @@
...
+
+lemma maximalIdeal_inj (w₁ w₂ : FinitePlace K) : maximalIdeal w₁ = maximalIdeal w₂ ↔ w₁ = w₂ :=
+  maximalIdeal_injective.eq_iff
+
+theorem mulSupport_finite_int {x : 𝓞 K} (h_x_nezero : x ≠ 0) :
+    (Function.mulSupport fun w : FinitePlace K ↦ w x).Finite := by
+  have (w : FinitePlace K) : w x ≠ 1 ↔ w x < 1 := by
+    have := norm_le_one w.maximalIdeal x
+    rw [norm_embedding_eq] at this
+    exact ne_iff_lt_iff_le.mpr this
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:214]:
```suggestion
  have (w : FinitePlace K) : w x ≠ 1 ↔ w x < 1 :=
    ne_iff_lt_iff_le.mpr <| norm_embedding_eq w x ▸ norm_le_one w.maximalIdeal x
```
(or do
```lean
    apply ne_iff_lt_iff_le.mpr
    rw [← norm_embedding_eq]
    exact norm_le_one w.maximalIdeal x
```
if you don't like the compact proof term version.)

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 38]
```diff
@@ -0,0 +1,236 @@
...
+  have (w : FinitePlace K) : w x ≠ 1 ↔ w x < 1 :=
+    ne_iff_lt_iff_le.mpr <| norm_embedding_eq w x ▸ norm_le_one w.maximalIdeal x
+  simp_rw [Function.mulSupport, this, ← norm_embedding_eq, norm_lt_one_iff_mem,
+    ← Ideal.dvd_span_singleton]
+  have h : {v : HeightOneSpectrum (𝓞 K) | v.asIdeal ∣ span {x}}.Finite := by
+    apply Ideal.finite_factors
+    simp only [Submodule.zero_eq_bot, ne_eq, span_singleton_eq_bot, h_x_nezero, not_false_eq_true]
+  have h_inj : Set.InjOn FinitePlace.maximalIdeal {w | w.maximalIdeal.asIdeal ∣ span {x}} :=
+    Function.Injective.injOn maximalIdeal_injective
+  refine Set.Finite.of_finite_image (Set.Finite.subset h ?_) h_inj
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:218]:
```suggestion
  refine (h.subset ?_).of_finite_image h_inj
```
More dot notation (sorry for not proposing this right away).

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 39]
```diff
@@ -0,0 +1,236 @@
...
+
+/-- The norm of the image after the embedding associated to `v` is equal to the norm of `v` raised
+to the power of the `v`-adic valuation. -/
+theorem FinitePlace.norm_def' (x : K) : ‖embedding v x‖ = toNNReal (norm_ne_zero v)
+    (v.valuation x) := by
+  rw [norm_def, vadicAbv_def]
+
+/-- The norm of the image after the embedding associated to `v` is equal to the norm of `v` raised
+to the power of the `v`-adic valuation for integers. -/
+theorem FinitePlace.norm_def'' (x : 𝓞 K) : ‖embedding v x‖ = toNNReal (norm_ne_zero v)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:126]: Maybe `FinitePlace.norm_def_int` (in analogy with `mulSupport_finite_int` further below), to avoid the double primes?

**Review by MichaelStollBayreuth — APPROVED** [review]
Looks good to me now!
maintainer merge

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 40]
```diff
@@ -0,0 +1,236 @@
...
+
+@[simp]
+theorem mk_maximalIdeal (w : FinitePlace K) : mk (maximalIdeal w) = w := Subtype.ext w.2.choose_spec
+
+@[simp]
+theorem norm_embedding_eq (w : FinitePlace K) (x : K) :
+    ‖embedding (maximalIdeal w) x‖ = w x := by
+  conv_rhs => rw [← mk_maximalIdeal w, apply]
+
+theorem pos_iff {w : FinitePlace K} {x : K} : 0 < w x ↔ x ≠ 0 := AbsoluteValue.pos_iff w.1
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:181]: Remark: this could have just been `w.1.pos_iff`

**Review by kbuzzard — APPROVED** [review]
Thanks a lot! Just to flag that in the FLT project we are also thinking about this sort of thing; in particular this file https://github.com/ImperialCollegeLondon/FLT/blob/main/FLT/HaarMeasure/DistribHaarChar.lean defines the norm on the units of any locally compact topological field as being the factor which Haar measure is scaled by under multiplication. What we need in FLT is the assertion that if B is a f.d. central simple algebra over a number field K, then multiplication by a unit in B doesn't change Haar measure on B tensor_K A_K. This is a generalization of what your goal is here so we should take care not to duplicate work. See for example https://github.com/ImperialCollegeLondon/FLT/pull/223 .

bors merge

**Comment by fbarroero** [comment]
> Thanks a lot! Just to flag that in the FLT project we are also thinking about this sort of thing; in particular this file https://github.com/ImperialCollegeLondon/FLT/blob/main/FLT/HaarMeasure/DistribHaarChar.lean defines the norm on the units of any locally compact topological field as being the factor which Haar measure is scaled by under multiplication. What we need in FLT is the assertion that if B is a f.d. central simple algebra over a number field K, then multiplication by a unit in B doesn't change Haar measure on B tensor_K A_K. This is a generalization of what your goal is here so we should take care not to duplicate work. See for example [ImperialCollegeLondon/FLT#223](https://github.com/ImperialCollegeLondon/FLT/pull/223) .
> 
> bors merge

Thanks!
I see what you mean. I am planning to PR the Product Formula soon. My goal is to define the Weil height, you don't need that for FLT, do you?
